US08536179B2
To a 100 ml round bottom flask was added methyl 6-bromo-1-(1-methylethyl)-1H-indole-4-carboxylate (1.100 g, 3.71 mmol) as a solution in THF and a magnetic stir bar. To the same was added 1-chloro-2,5-pyrrolidinedione (0.546 g, 4.09 mmol) and the system stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue dissolved in EtOAc (60 ml) and washed with saturated NaHCO3 (20 ml) and brine (8 ml). The organic layer was dried over Na2SO4, filtered and concentrated. Purification of the residue by column chromatography provided methyl 6-bromo-3-chloro-1-isopropyl-1H-indole-4-carboxylate (as a thick gold oil), which was used in the next step. 1H NMR (400 MHz, DMSO-d6) δ 8.15 (d, J=1.52 Hz, 1H), 7.93 (s, 1H), 7.50 (d, J=1.77 Hz, 1H), 4.90 (quin, J=6.63 Hz, 1H), 3.89 (s, 3H), 1.43 (d, J=6.57 Hz, 6H). MS (ES) [M+H]+ 332.2.

reactant | methyl 6-bromo-1-(1-methylethyl)-1H-indole-4-carboxylate | 3.71 mmol, 1.100 g | BrC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)OC | C13H14BrNO2
reactant | 1-chloro-2,5-pyrrolidinedione | 4.09 mmol, 0.546 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | C1CCOC1 | C4H8O
product | methyl 6-bromo-3-chloro-1-isopropyl-1H-indole-4-carboxylate | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)Cl)C(=O)OC | C13H13BrClNO2
